US04695571
Y3. 1-ethyl-2-oxo-2,3-dihydro-pyrano[2,3-f]indole
A mixture of 1.65 g. (4.41 mmoles) of 1-ethyl-5-hydroxy-6-(3-tosyloxypropyl)oxindole and 610 mg. (4.41 mmoles) of potassium carbonate in 90 ml. of acetone was heated at reflux for 2.5 hours. The reaction was cooled, filtered and the filtrate evaporated. The crude residue was purified by chromatographing on 100 g. of silica gel, using 66% diethyl ether-hexane as the eluent, to give 571 mg. (60% yield) of the desired intermediate.

reactant | 1-ethyl-5-hydroxy-6-(3-tosyloxypropyl)oxindole | 4.41 mmoles | C(C)N1C(CC2=CC(=C(C=C12)CCCOS(=O)(=O)C1=CC=C(C)C=C1)O)=O | C20H23NO5S
reactant | potassium carbonate | 4.41 mmoles | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-ethyl-2-oxo-2,3-dihydro-pyrano[2,3-f]indole | 60% yield | C(C)N1C(CC2=CC3=C(C=C12)C=CCO3)=O | C13H13NO2
